US06645968B2
4-iodobenzamide
Crude 4-iodobenzoyl chloride (11.4 g, 42.7 mmol) in THF (75 mL), prepared above, was treated with ammonium hydroxide (5 mL) followed by water (40 mL) at ambient temperature. The reaction mixture was stirred for 3 hours and then partitioned between EtOAc (50 mL) and brine (50 mL). The phases were separated and the organic phase was washed with 10% aqueous NaHCO3 solution (30 mL) and brine (30 mL), dried over Na2SO4, and filtered. The filtrate volume was reduced until a white solid precipitated from solution. The white solid was collected by filtration and washed with diethyl ether to provide the desired product (10.2 g, 41.4 mmol, 97%).

reactant | 4-iodobenzoyl chloride | 42.7 mmol, 11.4 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | water | 40 mL | O | H2O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-iodobenzamide | 41.4 mmol, 10.2 g, 97% | IC1=CC=C(C(=O)N)C=C1 | C7H6INO
